US07384967B2
1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[5-(1H-imidazol-2-ylsulfanyl)-thiazol-2-yl]-urea (149 mg, 35%) was prepared from 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (408 mg, 1 mmol) and 1H-imidazole-2-thiol (200 mg, 2 mmol) following the general procedure Q.

reactant | 1-(5-bromo-thiazol-2-yl)-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 1 mmol, 408 mg | BrC1=CN=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C17H18BrN3O2S
reactant | 1H-imidazole-2-thiol | 2 mmol, 200 mg | N1C(=NC=C1)S | C3H4N2S
product | 1-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-3-[5-(1H-imidazol-2-ylsulfanyl)-thiazol-2-yl]-urea | 149 mg, 35% | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(=O)NC=1SC(=CN1)SC=1NC=CN1 | C20H21N5O2S2
